US05710322
8.9 g (47 mmol) of (S)-(2,2-dimethylpropylidene)-(1-phenylethyl)-amine (J. L. Fauchure, C. Petermann, Helv. Chim. Acta 1980, 63, 824) were dissolved in 10 ml of diethyl ether with the exclusion of moisture. 8.1 g (50 mmol) of trimethylpyruvic acid in 10 ml of diethyl ether were added dropwise to this solution while cooling with ice. Subsequently, the mixture was stirred at 0° C. for a further 2 hours and at room temperature for 6 hours. Colorless crystals form over 2 days and these were suspended in 50 ml of diethyl ether, filtered off and washed twice with 5 ml of diethyl ether each time. After drying in a vacuum there were obtained 8.9 g (81%) of (S)-3,3-dimethyl-2-(1-phenylethylimino)-butyric acid (internal salt) of melting point 135°-136° C. [α]=-14.4 (c=0.16, CH2Cl2).

reactant | (S)-(2,2-dimethylpropylidene)-(1-phenylethyl)-amine | 47 mmol, 8.9 g | CC(C=N[C@@H](C)C1=CC=CC=C1)(C)C | C13H19N
reactant | trimethylpyruvic acid | 50 mmol, 8.1 g | CC(C(C(=O)O)=O)(C)C | C6H10O3
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (S)-3,3-dimethyl-2-(1-phenylethylimino)-butyric acid | 8.9 g, 81% | CC(C(C(=O)O)=N[C@@H](C)C1=CC=CC=C1)(C)C | C14H19NO2
